### PR TITLE
Generalize operations of random variables and add bij_RV_unif, etc.

### PR DESCRIPTION
**Pull request by weng-chenghui**
1. Generalize operations of random variables and add trans_RV_unif and neg_RV_unif
2. Add bij_RV_unif
3. Fix errors: 1^-1 before this change becomes 1/n (need mul1r)

### CODE REVIEW

File: probability/proba.v [hunk 1]
```diff
@@ -600,35 +600,77 @@ Section random_variables.
...
-Notation "k `cst* X" := (scalel_RV k X) : proba_scope.
-Notation "X `*cst k" := (scaler_RV X k) : proba_scope.
-Notation "X '`/' n" := (scalel_RV (n%:R^-1) X) : proba_scope.
+Notation "f `o X" := (comp_RV f X).
+
+Section zmod_random_variables.
+Context {R : realType}.
+Local Open Scope ring_scope.
+
+Variables (U : finType)(P : R.-fdist U)(V : zmodType).
```
Comment (affeldt-aist) [inline probability/proba.v:616]:
```suggestion
Variables (U : finType) (P : R.-fdist U) (V : zmodType).
```

File: probability/proba.v [hunk 2]
```diff
@@ -600,35 +600,77 @@ Section random_variables.
...
+
+Definition add_RV (X Y : {RV P -> V}) : {RV P -> V} := fun x => X x + Y x.
+Definition sub_RV (X Y : {RV P -> V}) : {RV P -> V} := fun x => X x - Y x.
+
+(* TODO: neg to opp *)
```
Comment (affeldt-aist) [inline probability/proba.v:621]: I think that it is ok to do the renaming as part of this PR (but it's better be recorded in the changelog).

File: probability/proba.v [hunk 3]
```diff
@@ -600,35 +600,77 @@ Section random_variables.
...
+Definition neg_RV (X : {RV P -> V}) : {RV P -> V} := fun x => - X x.
+Definition trans_add_RV (X : {RV P -> V}) m : {RV P -> V} := fun x => X x + m.
+(* TODO: min to sub; no longer necessary *)
```
Comment (affeldt-aist) [inline probability/proba.v:624]: I think that it is ok to remove it, just leave a note in the changelog in case we use it in monae.

File: probability/proba.v [hunk 4]
```diff
@@ -600,35 +600,77 @@ Section random_variables.
...
+Definition trans_min_RV (X : {RV P -> V}) m : {RV P -> V} := fun x => X x - m.
+Definition sumR_RV I (r : seq.seq I) (p : pred I) (X : I -> {RV P -> V}) : {RV P -> V} :=
```
Comment (affeldt-aist) [inline probability/proba.v:626]: try remove the `seq.` prefix

File: probability/proba.v [hunk 5]
```diff
@@ -600,35 +600,77 @@ Section random_variables.
...
+  fun x => \sum_(i <- r | p i) X i x.
+
+Local Notation "X `+ Y" := (add_RV X Y) : proba_scope.
+Local Notation "X `- Y" := (sub_RV X Y) : proba_scope.
+
+Lemma sub_RV_neg  (X Y : {RV P -> V}):
```
Comment (affeldt-aist) [inline probability/proba.v:632]:
```suggestion
Lemma sub_RV_neg  (X Y : {RV P -> V}) :
```

File: probability/proba.v [hunk 6]
```diff
@@ -600,35 +600,77 @@ Section random_variables.
...
+
+Section zmod_random_variables_lemmas.
+
+End zmod_random_variables_lemmas.
+
+Section ring_random_variables.
+Context {R : realType}.
+Local Open Scope ring_scope.
+
+Variables (U : finType)(P : R.-fdist U)(V : ringType).
```
Comment (affeldt-aist) [inline probability/proba.v:652]:
```suggestion
Variables (U : finType) (P : R.-fdist U) (V : ringType).
```

File: probability/proba.v [hunk 7]
```diff
@@ -600,35 +600,77 @@ Section random_variables.
...
+Definition trans_add_RV (X : {RV P -> V}) m : {RV P -> V} := fun x => X x + m.
+(* TODO: min to sub; no longer necessary *)
+Definition trans_min_RV (X : {RV P -> V}) m : {RV P -> V} := fun x => X x - m.
+Definition sumR_RV I (r : seq.seq I) (p : pred I) (X : I -> {RV P -> V}) : {RV P -> V} :=
+  fun x => \sum_(i <- r | p i) X i x.
+
+Local Notation "X `+ Y" := (add_RV X Y) : proba_scope.
+Local Notation "X `- Y" := (sub_RV X Y) : proba_scope.
+
+Lemma sub_RV_neg  (X Y : {RV P -> V}) :
```
Comment (affeldt-aist) [inline probability/proba.v:632]:
```suggestion
Lemma sub_RV_neg (X Y : {RV P -> V}) :
```

File: probability/proba.v [hunk 8]
```diff
@@ -600,35 +600,77 @@ Section random_variables.
...
 Notation "X `+ Y" := (add_RV X Y) : proba_scope.
 Notation "X `- Y" := (sub_RV X Y) : proba_scope.
 Notation "X '`+cst' m" := (trans_add_RV X m) : proba_scope.
 Notation "X '`-cst' m" := (trans_min_RV X m) : proba_scope.
-Notation "X '`^2' " := (sq_RV X) : proba_scope.
 Notation "'`--' P" := (neg_RV P) : proba_scope.
+
+Section zmod_random_variables_lemmas.
+
+End zmod_random_variables_lemmas.
```
Comment (affeldt-aist) [inline probability/proba.v:646]: Remove the empty section?

File: probability/proba.v [hunk 9]
```diff
@@ -600,35 +600,77 @@ Section random_variables.
...
+
+Notation "k `cst* X" := (scalel_RV k X) : proba_scope.
+Notation "X `*cst k" := (scaler_RV X k) : proba_scope.
+Notation "X '`/' n" := (scalel_RV (1 / n%:R) X) : proba_scope.
+Notation "X '`^2' " := (sq_RV X) : proba_scope.
+
+Section real_random_variables.
+Context {R : realType}.
+
+Variables (U : finType)(P : R.-fdist U).
```
Comment (affeldt-aist) [inline probability/proba.v:668]:
```suggestion
Section real_random_variables.
Context {R : realType}.
Variables (U : finType) (P : R.-fdist U).
```

File: probability/proba.v [hunk 10]
```diff
@@ -1340,6 +1381,52 @@ Qed.
 
 End mutual_independence.
 
+Section uniform_finType_RV_lemmas.
+Local Open Scope proba_scope.
+Context {R : realType}.
+Variables (T: finType) (n: nat) (P : R.-fdist T) (A : finType).
```
Comment (affeldt-aist) [inline probability/proba.v:1387]:
```suggestion
Variables (T : finType) (n : nat) (P : R.-fdist T) (A : finType).
```

File: probability/proba.v [hunk 11]
```diff
@@ -600,35 +600,76 @@ Section random_variables.
...
-Notation "k `cst* X" := (scalel_RV k X) : proba_scope.
-Notation "X `*cst k" := (scaler_RV X k) : proba_scope.
-Notation "X '`/' n" := (scalel_RV (n%:R^-1) X) : proba_scope.
+Notation "f `o X" := (comp_RV f X).
+
+Section zmod_random_variables.
+Context {R : realType}.
+Local Open Scope ring_scope.
+
+Variables (U : finType) (P : R.-fdist U) (V : zmodType).
```
Comment (affeldt-aist) [inline probability/proba.v:616]:
```suggestion
Section zmod_random_variables.
Context {R : realType}.
Variables (U : finType) (P : R.-fdist U) (V : zmodType).
Local Open Scope ring_scope.
```

File: probability/proba.v [hunk 12]
```diff
@@ -600,35 +600,75 @@ Section random_variables.
...
+
+Definition scalel_RV k (X : {RV P -> V}) : {RV P -> V} := fun x => k * X x.
+Definition scaler_RV (X : {RV P -> V}) k : {RV P -> V} := fun x => X x * k.
+Definition sq_RV (X : {RV P -> V}) : {RV P -> V} := (fun x => x ^+ 2) `o X.
+
+End ring_random_variables.
+
+Notation "k `cst* X" := (scalel_RV k X) : proba_scope.
+Notation "X `*cst k" := (scaler_RV X k) : proba_scope.
+Notation "X '`/' n" := (scalel_RV (1 / n%:R) X) : proba_scope.
```
Comment (affeldt-aist) [inline probability/proba.v:661]: It might be better in practice to write `n%:R^-1` instead of `1 / n%:R` (maybe leave a note in the changlog).

File: probability/proba.v [hunk 13]
```diff
@@ -1340,6 +1380,52 @@ Qed.
...
+apply/val_inj/ffunP => x /=.
+by rewrite (bij_comp_RV fg gf) Xunif /= !fdist_uniformE.
+Qed.
+
+End uniform_finType_RV_lemmas.
+
+Section uniform_finZmod_RV_lemmas.
+Local Open Scope proba_scope.
+Context {R : realType}.
+Variables (T: finType) (P : R.-fdist T) (A : finZmodType).
```
Comment (affeldt-aist) [inline probability/proba.v:1413]:
```suggestion
Variables (T : finType) (P : R.-fdist T) (A : finZmodType).
```

File: probability/proba.v [hunk 14]
```diff
@@ -1340,6 +1380,52 @@ Qed.
...
+Proof. by apply/esym/prednK/card_gt0P; exists 0. Qed.
+
+Hypothesis Xunif : `p_X = fdist_uniform card_A.
+
+Lemma trans_RV_unif (m : A) : `p_(X `+cst m) = fdist_uniform card_A.
+Proof. exact: (bij_RV_unif Xunif (addrK m) (subrK m)). Qed.
+
+Lemma neg_RV_unif : `p_(`-- X) = fdist_uniform card_A.
+Proof. exact: (bij_RV_unif Xunif opprK opprK). Qed.
+End uniform_finZmod_RV_lemmas.
```
Comment (affeldt-aist) [inline probability/proba.v:1427]:
```suggestion
Lemma neg_RV_unif : `p_(`-- X) = fdist_uniform card_A.
Proof. exact: (bij_RV_unif Xunif opprK opprK). Qed.

End uniform_finZmod_RV_lemmas.
```

File: probability/proba.v [hunk 15]
```diff
@@ -600,35 +600,75 @@ Section random_variables.
...
+
+Section zmod_random_variables_lemmas.
+
+End zmod_random_variables_lemmas.
+
+Section ring_random_variables.
+Context {R : realType}.
+Local Open Scope ring_scope.
+
+Variables (U : finType) (P : R.-fdist U) (V : ringType).
```
Comment (affeldt-aist) [inline probability/proba.v:651]:
```suggestion
Section ring_random_variables.
Local Open Scope ring_scope.
Context {R : realType}.
Variables (U : finType) (P : R.-fdist U) (V : ringType).
```

Comment (affeldt-aist) [inline probability/proba.v:651]:
```suggestion
Section ring_random_variables.
Local Open Scope ring_scope.
Context {R : realType}.
Variables (U : finType) (P : R.-fdist U) (V : ringType).
```

**Review by affeldt-aist — CHANGES_REQUESTED** [review]
This generalization is an improvement. I commited a few, trivial cosmetics changes but I left a couple of easy comments that'd better be taken care of within this PR imo.

File: probability/proba.v (hunk 3 above)
Comment (weng-chenghui) [reply probability/proba.v:623]: It is also used in `robust/robustmean.v`. If it is used then I think I do only renaming.

**Comment by weng-chenghui** [comment]
@affeldt-aist I fixed the issues, but I'm not sure what kind of changelog title you would like to have since I don't know what the version of this change should be.

**Review by affeldt-aist — APPROVED** [review]
Thanks for addressing the comments!
